US05710139
A solution of N-t-butoxycarbonyl-3-iodo-D-alanine methyl ester (0.66 g, 2 mmol) in dry benzene (3 ml) and dry dimethylacetamide (0.5 ml) was added to a zinc-copper couple (0.31 g). The resulted mixture was sonicated at 40°-45° C. under nitrogen for 2.5-3 h until no starting material remained (as judged by TLC). Tri-o-tolylphosphine (0.06 g, 0.2 mmol) and palladium chloride (0.02 g, 0.1 mmol) were added followed by a solution of 6,7-dichloro-3-dimethylphosphonomethyl-2-bromoquinoline (0.4 g, 1 mmol) in dry benzene (3 ml) and dry dimethylacetamide (0.5 ml). The resulted mixture was stirred under nitrogen at 50°-60° C. for 2.5-3 h and then allowed to cool. Water was added and the mixture was filtered through Celite, the latter was washed with ethyl acetate. The combined organic phases were separated, dried, (MgSO4) and concentrated in vacuo. The residue was coevaporated several times with toluene to remove most of the dimethylacetamide and then purified on a silica gel column using 0-2% methanol in chloroform as eluent to give 0.33 g of methyl (R)-α-t-butoxycarbonylamino-6,7-dichloro-3-dimethylphosphonomethyl-2-quinolinepropionate.

reactant | N-t-butoxycarbonyl-3-iodo-D-alanine methyl ester | 2 mmol, 0.66 g | COC([C@H](NC(=O)OC(C)(C)C)CI)=O | C9H16INO4
reactant | Tri-o-tolylphosphine | 0.2 mmol, 0.06 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 6,7-dichloro-3-dimethylphosphonomethyl-2-bromoquinoline | 1 mmol, 0.4 g | ClC=1C=C2C=C(C(=NC2=CC1Cl)Br)CP(=O)(OC)OC | C12H11BrCl2NO3P
reactant | Water | O | H2O
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | 0.5 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc-copper couple | 0.31 g | [Cu].[Zn]
catalyst | palladium chloride | 0.1 mmol, 0.02 g | [Pd](Cl)Cl
product | methyl (R)-α-t-butoxycarbonylamino-6,7-dichloro-3-dimethylphosphonomethyl-2-quinolinepropionate | 0.33 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=NC2=CC(=C(C=C2C=C1CP(=O)(OC)OC)Cl)Cl | C21H27Cl2N2O7P
